US07268157B2
Preparation of 2-(1-methyl-3-oxo-3-phenyl-propenylamino)-3-[4-(2-carbazolylethoxy)-phenyl]-propionic acid (compound CS023)
To a solution of 2-(1-methyl-3-oxo-3-phenyl-propenylamino)-3-[4-(2-bromoethoxy)-phenyl]-propionic acid methyl ester (0.22 g, 0.49 mmol) and carbazole (0.082 g, 0.49 mmol) in benzene (10 ml) is added tetrabutyl ammonium bromide (0.08 g) and 50% NaOH aqueous solution (0.084 g, 1.08 mmol), then the mixture is heated to reflux for 10 h. After cooled, benzene (30 ml) is added, and the mixture is washed with water(3×30 ml). Then the solvent is evaporated under a vacuum. The crude product is purified by silica gel chromatography using CHCl3/MeOH (4:1) as eluent to give the title compound (0.05 g, 20%). HRMS calcd for C33H30N2O4: 518.6123. Found: 518.6125. MA calcd for C33H30N2O4: C, 76.43%; H, 5.83%; N, 5.40%. Found: C, 76.21%; H, 5.85%; N, 5.39%.

reactant | 2-(1-methyl-3-oxo-3-phenyl-propenylamino)-3-[4-(2-bromoethoxy)-phenyl]-propionic acid methyl ester | 0.49 mmol, 0.22 g | COC(C(CC1=CC=C(C=C1)OCCBr)NC(=CC(C1=CC=CC=C1)=O)C)=O | C22H24BrNO4
reactant | carbazole | 0.49 mmol, 0.082 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | NaOH | 1.08 mmol, 0.084 g | [OH-].[Na+]
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | tetrabutyl ammonium bromide | 0.08 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 2-(1-methyl-3-oxo-3-phenyl-propenylamino)-3-[4-(2-carbazolylethoxy)-phenyl]-propionic acid | 0.05 g, 20% | CC(=CC(C1=CC=CC=C1)=O)NC(C(=O)O)CC1=CC=C(C=C1)OCCC1=CC=CC=2C3=CC=CC=C3NC12 | C33H30N2O4
